US04885022
Preparation of 1-ethyl-5-hydroxy-4-(4-methanesulfonyl-3-methoxycarbonyl-2-methylbenzoyl)pyrazole
1.12 g (0.01 mol) of 1-ethyl-5-hydroxypyrazole was dissolved in 30 ml of t-amyl alcohol, and 2.72 g (0.01 mol) of 4-methanesulfonyl-3-methoxycarbonyl-2-methylbenzoic acid, 2.27 g (0.011 mol) of N,N'-dicyclohexylcarbodiimide and 0.76 g (0.0055 mol) of anhydrous potassium carbonate were sequentially added thereto. The mixture was reacted at 80° C. for 6 hours under stirring. After completion of the reaction, t-amyl alcohol was distilled off under reduced pressure, and then water was added to the residue to dissolve the soluble component. The mixture was subjected to filtration to separate out the insolubles. The aqueous solution thus obtained was washed twice with chloroform, and then concentrated hydrochloric acid was added to adjust pH<1. The precipitated oil component was extracted with chloroform. The chloroform layer was washed sequentially with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue thus obtained was recrystallized from water/ethanol to obtain 2.26 g of the desired product. (Yield: 62%, melting point: 150°-152° C.)

reactant | 1-ethyl-5-hydroxypyrazole | 0.01 mol, 1.12 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | 4-methanesulfonyl-3-methoxycarbonyl-2-methylbenzoic acid | 0.01 mol, 2.72 g | CS(=O)(=O)C1=C(C(=C(C(=O)O)C=C1)C)C(=O)OC | C11H12O6S
reactant | N,N'-dicyclohexylcarbodiimide | 0.011 mol, 2.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | potassium carbonate | 0.0055 mol, 0.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | t-amyl alcohol | 30 ml | C(C)(C)(CC)O | C5H12O
product | 1-ethyl-5-hydroxy-4-(4-methanesulfonyl-3-methoxycarbonyl-2-methylbenzoyl)pyrazole | 2.26 g, Yield: 62% | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C(=O)OC)C)=O | C16H18N2O6S
